US06596730B1
Step 1: 4-Methyl-7-nitro-3,4-dihydro-2H-isoquinolin-1-one
A solution of 4-methyl-3,4-dihydro-2H-isoquinolin-1-one (1. Og) (J. Med. Chem., 1988, 31, 433) in conc. sulfuric acid (5 ml) was added dropwise over 20 min to an ice cooled solution of potassium nitrate (0.678 g) in conc. sulfuric acid (5 ml). The mixture was stirred for a further 30 min with ice-cooling. The mixture was added dropwise to ice (150 g) with stirring. The precipitated solid was collected by filtration, washed with water and dried to give the sub-titl compound (0.95 g). 1H NMR δ: 1.28 (3H, d, J=6.6 Hz), 3.14-3.28 (1H, m), 3.52 (2H, m), 7.67 (1H, d, J=8.5 Hz), 8.29 (1H, s), 8.35 (1H, dd, J=2.5, 8.4 Hz) (1H, d, J=2.5 Hz).

reactant | 4-methyl-3,4-dihydro-2H-isoquinolin-1-one | CC1CNC(C2=CC=CC=C12)=O | C10H11NO
reactant | potassium nitrate | 0.678 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Methyl-7-nitro-3,4-dihydro-2H-isoquinolin-1-one | 0.95 g | CC1CNC(C2=CC(=CC=C12)[N+](=O)[O-])=O | C10H10N2O3
